US05235091
5-Carboxypentyl-triphenylphosphonium bromide (20 g) and 4-fluorobenzaldehyde (6.5 g) were subjected to substantially the same reaction as in Reference Example 1. The reaction product was isolated by means of a silica gel chromatography to afford 7-(4-fluorophenyl)-6-heptenoic acid (8.3 g) as white crystals.

reactant | 5-Carboxypentyl-triphenylphosphonium bromide | 20 g | [Br-].C(=O)(O)CCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-fluorobenzaldehyde | 6.5 g | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 7-(4-fluorophenyl)-6-heptenoic acid | 8.3 g | FC1=CC=C(C=C1)C=CCCCCC(=O)O | C13H15FO2
